US04560754
Preparation of 2-phenyl-2-(2-piperidinyl)-4-[N,N-bis(1-methylethyl)amino]butanamide, Racemate A(II).
A mixture of 105.3 g (0.31 mole) of racemic 2-phenyl-2-(2-pyridyl)-4-[N,N-bis(1-methylethyl)amino]butanamide and 27 ml (ca. 0.32 mole) of concentrated aqueous hydrochloric acid in 2.5 liters of ethanol was hydrogenated (50 psi) over platinum oxide catalyst. After filtration to remove the catalyst, the reaction mixture was reduced to a syrupy residue, dissolved in an ice/water mixture, and neutralized with a slight excess of 25% sodium hydroxide. The product mixture was extracted into diethyl ether, which was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was crystallized twice from Skellysolve B containing a small amount of diethyl ether, to yield 26.0 g of the title compound as a white solid, m.p. 107°-108°. Structure assignment was confirmed by proton and carbon-13 NMR spectra and by elemental analysis.

reactant | racemic 2-phenyl-2-(2-pyridyl)-4-[N,N-bis(1-methylethyl)amino]butanamide | 0.31 mole, 105.3 g | C1(=CC=CC=C1)C(C(=O)N)(CCN(C(C)C)C(C)C)C1=NC=CC=C1 | C21H29N3O
reactant | hydrochloric acid | ca. 0.32 mole, 27 ml | Cl | ClH
solvent | ethanol | 2.5 liters | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 2-phenyl-2-(2-piperidinyl)-4-[N,N-bis(1-methylethyl)amino]butanamide | 26.0 g | C1(=CC=CC=C1)C(C(=O)N)(CCN(C(C)C)C(C)C)C1NCCCC1 | C21H35N3O
